US07842696B2
DIPEA (83 mg, 0.11 mL, 0.21 mmol) was added to a stirred solution of 2,4-difluoro-biphenyl-4-carboxylic acid (50 mg, 0.21 mmol) in DMF (1 mL). HOBT (35 mg, 0.25 mmol) and EDCI (50 mg, 0.25 mmol) were then added at room temperature. After 2 minutes 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride salt (90 mg, 0.25 mmol) was added and the resulting mixture was stirred at room temperature overnight. Cold water was then added and then extrated with ethyl acetate. The organic layer was washed with brine and dried over Na2SO4 and concentrated under reduced pressure to afford 56.9 mg (50.35%) of 2,4-difluoro-biphenyl-4-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide. LCMS Purity: 95.42%. 1H NMR (DMSO-d6): δ 8.2-7.94 (d, 2H), 7.88-7.74 (m, 2H), 7.74-7.6 (m, 4H), 7.6-7.5 (m, 1H), 7.46-7.34 (m, 1H), 7.3-7.2 (m, 1H), 4.3-4.1 (m, 2H), 3.8-3.4 (m, 6H), 3.2-3.0 (m, 2H).

reactant | DIPEA | 0.21 mmol, 0.11 mL, 83 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 2,4-difluoro-biphenyl-4-carboxylic acid | 0.21 mmol, 50 mg | FC1=C(C=CC(C1)(C(=O)O)F)C1=CC=CC=C1 | C13H10F2O2
reactant | HOBT | 0.25 mmol, 35 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.25 mmol, 50 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride salt | 0.25 mmol, 90 mg | Cl.NCC(=O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2,4-difluoro-biphenyl-4-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide | 56.9 mg, 50.35% | O=C(CNC(=O)C1(CC(=C(C=C1)C1=CC=CC=C1)F)F)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C27H24F5N3O3
